US05200110
In anhydrous ethanol, compound [I'], commercially available 4-fluorobenzonitrile is reacted with gaseous hydrogen chloride to yield compound [J'], 4-fluorobenzimidate hydrogen chloride. Compound [J'] is reacted with gaseous ammonia to yield compound [K'], 4-fluorobenzamidine hydrogen chloride.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 4-fluorobenzimidate hydrogen chloride | Cl.FC1=CC=C(C(O)=N)C=C1 | InChI=1S/C7H6FNO.ClH/c8-6-3-1-5(2-4-6)7(9)10;/h1-4H,(H2,9,10);1H
